US05652242
A mixture of 4-hydroxy-2-methylacetophenone (4.8 g), anhydrous potassium carbonate (5.3 g) and methyl brDmoacetate (3.55 ml) in anhydrous acetone (100 ml) was stirred for 2 days. The mixture, after filtration and evaporation of the solvent, gave methyl 4-acetyl-3-methylphenoxyacetate, 6.6 g, as a crystalline solid: m.p. 49°-50° C.; NMR (d6DMSO) δ 7.84 (1H, d), 6.83 (2H, m), 4.87 (2H, s), 3.71 (3H, s), 2.50 (3H, s), 2.45 (3H, s).

reactant | 4-hydroxy-2-methylacetophenone | 4.8 g | CC1=C(C=CC(=C1)O)C(=O)C | C9H10O2
reactant | potassium carbonate | 5.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 100 ml | CC(=O)C | C3H6O
product | methyl 4-acetyl-3-methylphenoxyacetate | C(C)(=O)C1=C(C=C(OCC(=O)OC)C=C1)C | C12H14O4
